US04906621
A solution of 2.01 g of ethyl 4-(2-hydroxyethyl)-piperidine-2-carboxylate in 5 ml methylene chloride is added to a solution of 2.20 g of di-tert-butyl dicarbonate in 10 ml methylene chloride. After standing for 10 minutes the solvent is evaporated and the residue is flash chromatographed with hexane: ethyl acetate (50:50) to afford ethyl 4-(2-hydroxyethyl)-1-tert-butoxycarbonylpiperidine-2-carboxylate.

reactant | ethyl 4-(2-hydroxyethyl)-piperidine-2-carboxylate | 2.01 g | OCCC1CC(NCC1)C(=O)OCC | C10H19NO3
reactant | di-tert-butyl dicarbonate | 2.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | ethyl 4-(2-hydroxyethyl)-1-tert-butoxycarbonylpiperidine-2-carboxylate | OCCC1CC(N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H27NO5
